US04933367
7-(4-chlorophenyl)-2-(4-methylphenylthio)heptanoic acid
A solution of 2.12 g (53 mmol) of caustic soda in 5 ml of water is added under nitrogen, at 0° C., to a solution of 3.27 g (26.3 mmol) of p-thiocresol in 50 ml of ethanol. Then a solution of 8.4 g (26.3 mmol) of 2-bromo-7-(4-chlorophenyl)heptanoic acid in 5 ml of ethanol is added and the cooling bath is removed. Then stirring is continued for 6 at room temperature; the mixture is let stand overnight and concentrated by evaporation. The residue is taken up in water, washed with ether and acidified with hydrochloric acid. The precipitated oil is extracted with methylene chloride. The extracts are dried and concentrated. The concentrate is chromatographed with a mixture of toluene and dioxane (5:1) on silica gel. Yield: 6.6 g (69% of theory) of 7-(4-chlorophenyl)-2-(4-methylphenylthio)heptanoic acid, M.P. 58°-61° C.

reactant | caustic soda | 53 mmol, 2.12 g | [OH-].[Na+]
reactant | p-thiocresol | 26.3 mmol, 3.27 g | CC1=CC=C(C=C1)S | C7H8S
reactant | 2-bromo-7-(4-chlorophenyl)heptanoic acid | 26.3 mmol, 8.4 g | BrC(C(=O)O)CCCCCC1=CC=C(C=C1)Cl | C13H16BrClO2
solvent | water | 5 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 7-(4-chlorophenyl)-2-(4-methylphenylthio)heptanoic acid | ClC1=CC=C(C=C1)CCCCCC(C(=O)O)SC1=CC=C(C=C1)C | C20H23ClO2S
